US06489046B1
(2) Preparation of 1-(bromomethyl)-2-(dibromomethyl)naphthalene
In 150 ml of carbon tetrachloride, 20 g (64 mmole) of 1,2-bis(bromomethyl)naphthalene and 23 g (130 mmole) of N-bromosuccinimide were suspended. To the obtained suspension, 1.1 g (6.7 mmole) of 2,2′-azobis(isobutyronitrile) was added and the mixture was vigorously stirred at 100° C. for 2 hours. After the reaction was completed, the reaction mixture was filtered and the residue was washed with 150 ml of dichloromethane. The filtrate and the washing were combined. The combined solution was treated by the column chromatography (silica gel/dichloromethane) without additional treatments and 16 g (the yield: 64%) of a white solid of 1-(bromomethyl)-2-(dibromomethyl)naphthalene was obtained.

reactant | 1,2-bis(bromomethyl)naphthalene | 64 mmole, 20 g | BrCC1=C(C=CC2=CC=CC=C12)CBr | C12H10Br2
reactant | N-bromosuccinimide | 130 mmole, 23 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(isobutyronitrile) | 6.7 mmole, 1.1 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(bromomethyl)-2-(dibromomethyl)naphthalene | yield: 64% | BrCC1=C(C=CC2=CC=CC=C12)C(Br)Br | C12H9Br3
